US04154837
2-Methyl-3-[4-(3-(N-4-methoxyphenethyl-N-methyl-amino)-propoxy)-phenyl]-7-methoxy-isoquinolin-1(2H)-one hydrochloride was prepared analogous to Example 3b from 2-methyl-3-[4-(3-chloropropoxy)-phenyl]-7-methoxy-isoquinoline-1(2H)-one and N-b 4-methoxyphenethyl-N-methyl-amine.

reactant | 2-methyl-3-[4-(3-chloropropoxy)-phenyl]-7-methoxy-isoquinoline-1(2H)-one | CN1C(C2=CC(=CC=C2C=C1C1=CC=C(C=C1)OCCCCl)OC)=O | C20H20ClNO3
reactant | 4-methoxyphenethyl-N-methyl-amine | COC1=CC=C(CCNC)C=C1 | C10H15NO
product | 2-Methyl-3-[4-(3-(N-4-methoxyphenethyl-N-methyl-amino)-propoxy)-phenyl]-7-methoxy-isoquinolin-1(2H)-one hydrochloride | Yield: 75% | Cl.CN1C(C2=CC(=CC=C2C=C1C1=CC=C(C=C1)OCCCN(C)CCC1=CC=C(C=C1)OC)OC)=O | InChI=1S/C30H34N2O4.ClH/c1-31(18-16-22-6-11-25(34-3)12-7-22)17-5-19-36-26-13-8-23(9-14-26)29-20-24-10-15-27(35-4)21-28(24)30(33)32(29)2;/h6-15,20-21H,5,16-19H2,1-4H3;1H
